US07781478B2
Acetic anhydride (2.5 mL) and 98% formic acid (1.0 mL) are heated at 65° C. for 1 hour. This is cooled to 0° C. 2-(4-Aminophenylethynyl)-1-ethyl-6-methoxy-1H-indole-3-carbonitrile (100 mg, 0.32 mmol), prepared as in example 1H, is taken up in THF (1.2 mL) and added to the formic acetic anhydride mixture. This is stirred at 0° C. for 30 minutes. The reaction mixture is then partitioned between H2O and EtOAc. The EtOAc layer is washed with saturated NaHCO3, followed by saturated brine. The organic layer is dried and concentrated. Purification by silica gel chromatography (4/1, CH2Cl2/EtOAc) yields of N-[4-(3-cyano-1-ethyl-6-methoxy-1H-indol-2-ylethynyl)-phenyl]-formamide (105 mg, 96%) as a yellow solid.

reactant | Acetic anhydride | 2.5 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | formic acid | 1.0 mL | C(=O)O | CH2O2
reactant | 2-(4-Aminophenylethynyl)-1-ethyl-6-methoxy-1H-indole-3-carbonitrile | 0.32 mmol, 100 mg | NC1=CC=C(C=C1)C#CC=1N(C2=CC(=CC=C2C1C#N)OC)CC | C20H17N3O
reactant | formic acetic anhydride | C(C)(=O)OC=O | C3H4O3
solvent | THF | 1.2 mL | C1CCOC1 | C4H8O
product | N-[4-(3-cyano-1-ethyl-6-methoxy-1H-indol-2-ylethynyl)-phenyl]-formamide | 105 mg, 96% | C(#N)C1=C(N(C2=CC(=CC=C12)OC)CC)C#CC1=CC=C(C=C1)NC=O | C21H17N3O2
